US07595397B2
2-Phenyl-4-(2′-chloro-5′-methyl-biphenyl-4-ylmethyl)-piperazine-1-carboxylic acid phenylamide
55 mg of 3-phenyl-1-(2′-chloro-5′-methyl-biphenyl-4-ylmethyl)-piperazine were dissolved in dichloromethane, 2 equiv. methylisocyanate were added. The reaction was shaken at room temperature overnight. The reaction was concentrated in vacuo. The residue was diluted with DCM, washed with 1M aqueous sodium hydroxide solution, then dried over sodium sulfate, filtered and concentrated in vacuo. The crude residue was purified by column chromatography to afford the title compound as free base. Addition of 1 equiv. of 1M HCl in dioxane and concentratation in vacuo afforded the title compound as hydrochloride salt. Yield 33%, ES MS m/z 496.

reactant | 3-phenyl-1-(2′-chloro-5′-methyl-biphenyl-4-ylmethyl)-piperazine | 55 mg | C1(=CC=CC=C1)C1CN(CCN1)CC1=CC=C(C=C1)C1=C(C=CC(=C1)C)Cl | C24H25ClN2
reactant | methylisocyanate | 2 equiv. | CN=C=O | C2H3NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-Phenyl-4-(2′-chloro-5′-methyl-biphenyl-4-ylmethyl)-piperazine-1-carboxylic acid phenylamide | C1(=CC=CC=C1)NC(=O)N1C(CN(CC1)CC1=CC=C(C=C1)C1=C(C=CC(=C1)C)Cl)C1=CC=CC=C1 | C31H30ClN3O
